US05025025
A mixture of 0.083 g (0.18 mmol) of methyl 8-(p-chlorophenylsulfonamido)-5-[2-(3-pyridyl)ethyl]-octanoate, 2 mL dioxane and 0.4 mL (0.4 mmol) 1N aqueous sodium hydroxide is stirred for 16 hours at room temperature. The solvent is evaporated and the residue taken up in water and the pH is adjusted to 5. The aqueous mixture is then extracted with methylene chloride (4×10 mL). Combined organic extract is dried (MgSO4), filtered and evaporated to give an oil which is crystallized from ether to give 8-(p-chlorophenylsulfonamido)-5-[2-(3-pyridyl)ethyl]-octanoic acid, m.p. 83-85°.

reactant | methyl 8-(p-chlorophenylsulfonamido)-5-[2-(3-pyridyl)ethyl]-octanoate | 0.18 mmol, 0.083 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCC(CCCC(=O)OC)CCC=1C=NC=CC1 | C22H29ClN2O4S
reactant | sodium hydroxide | 0.4 mmol, 1N, 0.4 mL | [OH-].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 8-(p-chlorophenylsulfonamido)-5-[2-(3-pyridyl)ethyl]-octanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCCC(CCCC(=O)O)CCC=1C=NC=CC1 | C21H27ClN2O4S
